US05371100
(2R,3R)-2-(2,4-Difluorophenyl)-3-(2H-tetrazol-2-yl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol (Compound 4)
1H-1,2,4-Triazole (48 mg) was added to a dispersion of 60% sodium hydride in oil (27 mg) in dimethylformamide (1.1 ml) under ice-cooling and the resulting mixture was stirred for 10 minutes at room temperature. After addition of a solution of (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-tetrazol-2-yl)ethyl]oxirane (89 mg) in dimethylformamide (0.7 ml), the mixture was heated for 5 hours at 50° C. and cooled. Cold water (10 ml) and ethyl acetate (20 ml) were added to the reaction mixture. The separated aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated saline, dried over anhydrous magnesium sulfate and distilled under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1:1→2:1→ethyl acetate) to give the title compound (Compound 4, 60 mg, 53%) as a colorless oily substance.

reactant | 1H-1,2,4-Triazole | 48 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | [H-].[Na+]
reactant | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-tetrazol-2-yl)ethyl]oxirane | 89 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1N=CN=N1 | C11H10F2N4O
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1.1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-(2H-tetrazol-2-yl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 60 mg, 53% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)N1N=CN=N1)O | C13H13F2N7O
